US07906660B2
3′-Methoxy-8-methylisoflav-3-ene-4′,7-diol was prepared from 4′,7-diacetoxy-3′-methoxy-8-methylisoflav-3-ene (0.21 g, 0.6 mmol) and imidazole (0.52 g) in ethanol (4 ml) as described for 8-methylisoflav-3-ene-4′,7-diol. Yield: (0.1 g, 63%). 1H NMR (CDCl3): δ 2.14 (s, 3H, CH3), 3.94 (s, 3H, OMe), 5.11 (s, 2H, H2), 6.42 (d, 1H, J 8.3 Hz, H6), 6.64 (bs, 1H, ArH), 6.80 (d, 1H, J 7.9 Hz, ArH), 6.94 (m, 2H, ArH), 7.12 (m, 1H, ArH), 7.26, 7.70 (each bs, 1H, OH).

reactant | 4′,7-diacetoxy-3′-methoxy-8-methylisoflav-3-ene | 0.6 mmol, 0.21 g | C(C)(=O)OC1=C(C=C(C=2COC3=C(C(=CC=C3C2)OC(C)=O)C)C=C1)OC | C21H20O6
reactant | imidazole | 0.52 g | N1C=NC=C1 | C3H4N2
reactant | 8-methylisoflav-3-ene-4′,7-diol | CC=1C(=CC=C2C=C(COC12)C1=CC=C(C=C1)O)O | C16H14O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3′-Methoxy-8-methylisoflav-3-ene-4′,7-diol | COC=1C=C(C=2COC3=C(C(=CC=C3C2)O)C)C=CC1O | C17H16O4
